US04291170
Preparation of 4-oxopentane-1-carboxylic acid methyl ester
41.5% of the total quantity of methyl acrylate has been converted and calculated in relation to the amount of converted acetone, the efficiency amounts to 81%, and to 72% referred to the quantity of converted methyl acrylate.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | acetone | CC(=O)C | C3H6O
product | 4-oxopentane-1-carboxylic acid methyl ester | COC(=O)CCCC(C)=O | C7H12O3
